US07449460B2
Following the procedure of Example 11, a mixture of 150 mg (0.33 mmol) of 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile and 170 mg (1.0 mmol) of 1-methyl-4-piperidin-4-ylmorpholine in 1.0 mL of 1-methyl 2-pyrrolidinone is heated at 105° C. for 24 hours to yield the crude product. Purification by silica gel chromatography (gradient 97:3 methylene chloride/methanol to 9:1 methylene chloride/methanol) gave 100 mg of 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-methoxy-7-(4-morpholin-4-ylpiperidin-1-yl)quinoline-3-carbonitrile as a beige solid, mp 219-221° C.

reactant | 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile | 0.33 mmol, 150 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C21H15ClFN5OS
reactant | 1-methyl 2-pyrrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
product | 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-methoxy-7-(4-morpholin-4-ylpiperidin-1-yl)quinoline-3-carbonitrile | 100 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)N1CCC(CC1)N1CCOCC1)C#N | C30H32ClN7O2S
